US07723329B2
Step 5) N,N, N′-Trimethyl-N′-{[3-(1-naphthylsulfonyl)-1H-indazol-5-yl]methyl}ethane-1,2-diamine
3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde (0.17 g, 0.5 mmol), trimethyl ethylene diamine (0.6 mmol) and sodium triacetoxyborohydride (0.7 mmol) in dichloroethane (5 mL) was stirred at room temperature for 24 hrs. After completion, the solvent was removed in vacuo, crude material dispersed in water and the pH brought to 3.4. Solid material was filtered off and washed with cold water to afford after drying the target material as a free base. The latter was converted into hydrochloride salt by dissolution in methanol, followed by treatment with the excess of 2N HCl and the evacuation of the volatiles in vacuo to afford the title compound hydrochloride salt, mp>200° C.; MS (APPI) 423 [M+H]

reactant | 3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde | 0.5 mmol, 0.17 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)C=O | C18H12N2O3S
reactant | trimethyl ethylene diamine | 0.6 mmol | CNCCN(C)C | C5H14N2
reactant | sodium triacetoxyborohydride | 0.7 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | N,N, N′-Trimethyl-N′-{[3-(1-naphthylsulfonyl)-1H-indazol-5-yl]methyl}ethane-1,2-diamine | CN(CCN(CC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C)C | C23H26N4O2S
